US05750525
615 mg of (7-fluoro-1,2,3,4-tetrahydro-2,3-dioxoquinoxalin-1-yl)methanephosphonic acid diethyl ester is mixed in 60 ml of methylene chloride with 743 mg of nitronium tetrafluoroborate. The batch is stirred for 2 hours at room temperature. It is mixed with 50 ml of water and, after separation of the organic phase, it is extracted three times with methylene chloride. The collected organic phase is dried, filtered and concentrated by evaporation. The residue is chromatographed on silica gel with methylene chloride:ethanol=10:1. 350 mg of (6-nitro-7-fluoro-1,2,3,4-tetrahydro-2,3-dioxoquinoxalin-1-yl)-methanephosphonic acid diethyl ester is obtained.

reactant | (7-fluoro-1,2,3,4-tetrahydro-2,3-dioxoquinoxalin-1-yl)methanephosphonic acid diethyl ester | 615 mg | C(C)OP(OCC)(=O)CN1C(C(NC2=CC=C(C=C12)F)=O)=O | C13H16FN2O5P
reactant | nitronium tetrafluoroborate | 743 mg | F[B-](F)(F)F.O=[N+]=O
reactant | water | 50 ml | O | H2O
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | (6-nitro-7-fluoro-1,2,3,4-tetrahydro-2,3-dioxoquinoxalin-1-yl)-methanephosphonic acid diethyl ester | 350 mg | C(C)OP(OCC)(=O)CN1C(C(NC2=CC(=C(C=C12)F)[N+](=O)[O-])=O)=O | C13H15FN3O7P
